US06340759B1
(245-2) 6-Bromo-8-(1-ethylpiperazin-4-yl)-1,7-naphthyridine
6,8-Dibromo-1,7-naphthyridine (3.464 g) was added to 1-ethylpiperazine (10 ml), and the resulting mixture was stirred at 100° C. for 15 min. The reaction mixture was evaporated, and then partitioned between ethyl acetate and water. The resulting organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was purified by (NH) silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a yellowish orange solid (3.780 g, yield; 98%).

reactant | 6,8-Dibromo-1,7-naphthyridine | 3.464 g | BrC=1C=C2C=CC=NC2=C(N1)Br | C8H4Br2N2
reactant | 1-ethylpiperazine | 10 ml | C(C)N1CCNCC1 | C6H14N2
product | 6-Bromo-8-(1-ethylpiperazin-4-yl)-1,7-naphthyridine | 3.780 g, yield; 98% | BrC=1C=C2C=CC=NC2=C(N1)N1CCN(CC1)CC | C14H17BrN4
